US07507740B2
Production of N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5H -pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (63 mg) in 1-methyl-2-pyrrolidone (0.8 mL), was added 3-chloro-4-(pyridin-2-ylmethoxy)aniline (149 mg), and the mixture was heated to 140° C. and stirred for 2 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (20 mL) and extracted with a mixed solvent (25 mL×3) of ethyl acetate/tetrahydrofuran (1/1). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:ethyl acetate/methanol=10/0→8/2). The object fraction was concentrated under reduced pressure. Chloroform/diisopropyl ether (1/9) was added to the residue, and the resultant precipitate was collected by filtration and dried under reduced pressure to give the title compound (112 mg) as pale-yellow powder crystals.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 63 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | 3-chloro-4-(pyridin-2-ylmethoxy)aniline | 149 mg | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
solvent | 1-methyl-2-pyrrolidone | 0.8 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5H -pyrrolo[3,2-d]pyrimidin-4-amine | 112 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)C=CN2 | C18H14ClN5O
